US20010056105A1
4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl) benzoic acid
Lithium hydroxide (440 mg) is added to a solution of methyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)benzoate (740 mg, 1.74 mmol), obtained in Example 4, in 15 ml of THF and 2 ml of a water/methanol mixture (1/1). The reaction medium is refluxed for 8 h. It is then poured into an ethyl ether/water mixture, acidified to pH 1 with concentrated hydrochloric acid solution and extracted with ethyl ether. After separation of the phases by settling, the organic phase is washed twice with water, dried over anhydrous magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The residue is recrystallized from heptane. After filtration, 615 mg (86%) of a white powder are obtained. m.p.=182° C.

reactant | Lithium hydroxide | 440 mg | [OH-].[Li+]
reactant | methyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)benzoate | 1.74 mmol, 740 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C(=O)OC)C=C1)C | C24H26O2Se
reactant | ethyl ether water | C(C)OCC.O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water methanol | 2 ml | O.CO
product | 4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl) benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C(=O)O)C=C1)C | C23H24O2Se
